US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and o-toluoyl chloride, there is obtained ethyl N-(o-toluoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum: m/e: M+ 384 (5), 355 (10), 194 (100), 119 (31);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | o-toluoyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
product | ethyl N-(o-toluoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C=1(C(=CC=CC1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2)C | C25H24N2O2
